US07772251B2
1c) Boc-Phe(3-CN)—OH
2.5 g (13.1 mmol) of H-Phe(3-CN)—OH were dissolved in 100 ml of dioxane and, at 0° C., 13 ml (13 mmol) of 1N NaOH and 3.16 g (14.5 mmol) of Boc pyrocarbonate were added. The mixture was stirred at 0° C. for 20 min and then at room temperature for 4 h, during which a total of 7 ml (7 mmol) of 1N NaOH was added in portions, thus keeping the pH constant at 8-8.5. The solvent was removed in vacuo, and the residue was taken up in ethyl acetate, washed in each case 3× with 5% KHSO4 and 3× with NaCl-saturated water and then dried over Na2SO4. The solvent was removed in vacuo. A white solid was obtained as residue.

reactant | H-Phe(3-CN)—OH | 13.1 mmol, 2.5 g | N[C@@H](CC1=CC(=CC=C1)C#N)C(=O)O | C10H10N2O2
reactant | NaOH | 13 mmol, 1N, 13 ml | [OH-].[Na+]
reactant | Boc pyrocarbonate | 14.5 mmol, 3.16 g | C(OC(=O)OC(C)(C)C)(=O)OC(=O)[O-]
reactant | NaOH | 7 mmol, 1N, 7 ml | [OH-].[Na+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | Boc-Phe(3-CN)—OH | N([C@@H](CC1=CC(=CC=C1)C#N)C(=O)O)C(=O)OC(C)(C)C | C15H18N2O4
